US08957069B2
1-(3-Fluoro-4-methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (311 mg, 1.0 mmol) synthesized in Reference example 61 and 4-bromo-2-fluoroanisole (0.194 mL, 1.5 mmol), the reaction was carried out in the same manner as Example 23 to synthesize the title compound 145 mg (yield 36%). Melting point was 161 to 163° C. (hexane).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.0 mmol, 311 mg | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 4-bromo-2-fluoroanisole | 1.5 mmol, 0.194 mL | BrC1=CC(=C(C=C1)OC)F | C7H6BrFO
product | 1-(3-Fluoro-4-methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 145 mg, yield 36% | FC=1C=C(C=CC1OC)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C24H31FN2O2
